US07727988B2
5-(6-Fluoro-pyridin-2-yl)-1H-pyrimidine-2,4-dione hydrochloride (Prep75)
5-(6-Fluoro-pyridin-2-yl)-2,4-dimethoxy-pyrimidine (Prep74, 230 mg, 0.98 mmol) was dissolved in a solution of 4N HCl in dioxane (4 ml). After refluxing the reaction mixture for 1 hour, the solvent was removed under vacuum to give 200 mg of the title compound (84% yield)

reactant | 5-(6-Fluoro-pyridin-2-yl)-2,4-dimethoxy-pyrimidine | 0.98 mmol, 230 mg | FC1=CC=CC(=N1)C=1C(=NC(=NC1)OC)OC | C11H10FN3O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 5-(6-Fluoro-pyridin-2-yl)-1H-pyrimidine-2,4-dione hydrochloride | 200 mg, 84% yield | Cl.FC1=CC=CC(=N1)C=1C(NC(NC1)=O)=O | InChI=1S/C9H6FN3O2.ClH/c10-7-3-1-2-6(12-7)5-4-11-9(15)13-8(5)14;/h1-4H,(H2,11,13,14,15);1H
